US06140332
Step 9.3: 4-Chloro-6-(naphth-2-yl)-7H-pyrrolo[2,3-d]pyrimidine
Under a protective gas, 198.5 mg (0.76 mmol) of 6-(naphth-2-yl)-7H-pyrrolo[2,3-d]-pyrimidin-4-ol in 3 ml of phosphorus oxychloride are heated at boiling for 5 hours. The reaction mixture is poured into ice-water and stirred for 1 hour to complete the reaction. The crystals are filtered off and washed with water. Dissolving the crude product in THF/methanol, filtering through active carbon, concentrating the filtrate by evaporation, stirring the residue in isopropanol and washing with hexane yield the title compound; m.p. 268-269° C. (decomposition); FAB-MS: (M+H)+ =280.

reactant | 6-(naphth-2-yl)-7H-pyrrolo[2,3-d]-pyrimidin-4-ol | 0.76 mmol, 198.5 mg | C1=C(C=CC2=CC=CC=C12)C1=CC2=C(N=CN=C2O)N1 | C16H11N3O
reactant | phosphorus oxychloride | 3 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 4-Chloro-6-(naphth-2-yl)-7H-pyrrolo[2,3-d]pyrimidine | ClC=1C2=C(N=CN1)NC(=C2)C2=CC1=CC=CC=C1C=C2 | C16H10ClN3
